US04455422
2.0 Grams of 6-{4-[4-(2-ethoxyphenyl)-1-piperazinyl]-1-butenyl}-3,4-dihydrocarbostyril and 3.5 g of DDQ were mixed in 20 ml of benzene and the mixture was refluxed by heating for 5 hours. The reaction mixture was then concentrated under a reduced pressure and the residue thus obtained was extracted with chloroform. The chloroform layer was washed with 5%-NaHCO3 aqueous solution three times then washed with water twice and dried. Chloroform was removed by distillation and the residue obtained was purified by a silica-gel column chromatography and recrystallized from methanol to obtain 0.12 g of 6-{4-[4-(2-ethoxyphenyl)-1-piperazinyl]-1-butenyl}carbostyril in colorless needle-like crystals. Melting point: 225°-228° C.

reactant | 6-{4-[4-(2-ethoxyphenyl)-1-piperazinyl]-1-butenyl}-3,4-dihydrocarbostyril | C(C)OC1=C(C=CC=C1)N1CCN(CC1)CCC=CC=1C=C2CCC(NC2=CC1)=O | C25H31N3O2
reactant | DDQ | 3.5 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 6-{4-[4-(2-ethoxyphenyl)-1-piperazinyl]-1-butenyl}carbostyril | 0.12 g | C(C)OC1=C(C=CC=C1)N1CCN(CC1)CCC=CC=1C=C2C=CC(NC2=CC1)=O | C25H29N3O2
